US06346527B1
A mixture of ethyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate (0.34 g), ethyl acrylate (0.13 ml), palladium(II) acetate (2.2 mg), tri-o-tolylphosphine (6.0 mg), and triethylamine (0.15 ml) in acetonitrile (1 ml) was stirred at 100° C. under nitrogen atmosphere for 5 hours and partitioned between ethyl acetate and water. The organic layer was washed successively with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was triturated in n-hexane to give a solid of ethyl 2,3-dihydro-9-[(E)-(2-ethoxycarbonylvinyl)]-1-benzoxepin-4-carboxylate (0.14 g).

reactant | ethyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate | 0.34 g | IC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C13H13IO3
reactant | ethyl acrylate | 0.13 ml | C(C=C)(=O)OCC | C5H8O2
reactant | tri-o-tolylphosphine | 6.0 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 2,3-dihydro-9-[(E)-(2-ethoxycarbonylvinyl)]-1-benzoxepin-4-carboxylate | 0.14 g | C(C)OC(=O)/C=C/C1=CC=CC=2C=C(CCOC21)C(=O)OCC | C18H20O5
